US07851473B2
(3) N-(3,4-dimethylisoxazol-5-yl)-4-[3-(3-fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide
A solution of N-(3,4-dimethylisoxazol-5-yl)piperazine-1-carboxamide trifluoroacetate (300 mg, 0.887 mmol), 5-chloro-3-(3-fluorophenyl)-1,2,4-thiadiazole (190 mg, 0.887 mmol), triethylamine (0.618 ml, 4.43 mmol) and N,N-dimethylformamide (3 ml) was stirred at room temperature for 2 hours and the reaction mixture was poured into water. A solid was collected by filtration and recrystallized from a mixed solvent of tetrahydrofuran and ethyl acetate to obtain the desired product (160 mg, 44.8%) as a solid.

reactant | N-(3,4-dimethylisoxazol-5-yl)piperazine-1-carboxamide trifluoroacetate | 0.887 mmol, 300 mg | FC(C(=O)O)(F)F.CC1=NOC(=C1C)NC(=O)N1CCNCC1
reactant | 5-chloro-3-(3-fluorophenyl)-1,2,4-thiadiazole | 0.887 mmol, 190 mg | ClC1=NC(=NS1)C1=CC(=CC=C1)F | C8H4ClFN2S
reactant | triethylamine | 4.43 mmol, 0.618 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(3,4-dimethylisoxazol-5-yl)-4-[3-(3-fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide | 160 mg, 44.8% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC(=CC=C1)F | C18H19FN6O2S
